US07495007B2
In a manner similar to the method described in example 1a, 6-chlorooxindole (1.2 g, 7.2 mmol) was reacted with 4-chloro-thiophene-2-carbaldehyde (1.05 g, 7.2 mmol) and pyrrolidine (0.7 g, 9.9 mmol) to give E/Z-6-chloro-3-(4-chloro-thiophen-2-ylmethylene)-1,3-dihydro-indol-2-one as a yellow solid (Yield 1.3 g, 62%)

reactant | 6-chlorooxindole | 7.2 mmol, 1.2 g | ClC1=CC=C2CC(NC2=C1)=O | C8H6ClNO
reactant | 4-chloro-thiophene-2-carbaldehyde | 7.2 mmol, 1.05 g | ClC=1C=C(SC1)C=O | C5H3ClOS
reactant | pyrrolidine | 9.9 mmol, 0.7 g | N1CCCC1 | C4H9N
product | Z-6-chloro-3-(4-chloro-thiophen-2-ylmethylene)-1,3-dihydro-indol-2-one | Yield 1.3 g, 62% | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C=1SC=C(C1)Cl | C13H7Cl2NOS
